US07611692B2
1. Synthesis of (3β,5β)-3-Aminocholan-24-oic acid (B)
A 1 M solution of NaOH (16.6 mL; 16.6 mmol) was added dropwise to a solution of (3β,5β)-3-aminocholan-24-oic acid methyl ester (5.0 g; 12.8 mmol) in MeOH (65 mL) at 45° C. After 3 h stirring at 45° C., the mixture was concentrated to 25 mL and H2O (40 mL) and 1 M HCl (22 mL) were added. The precipitated solid was filtered, washed with H2O (2×50 mL) and vacuum dried to give B as a white solid (5.0 g; 13.3 mmol). Yield 80%.

reactant | NaOH | 16.6 mmol, 16.6 mL | [OH-].[Na+]
reactant | (3β,5β)-3-aminocholan-24-oic acid methyl ester | 12.8 mmol, 5.0 g | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)N)=O | C25H43NO2
solvent | MeOH | 65 mL | CO | CH4O
product | (3β,5β)-3-Aminocholan-24-oic acid | Yield 80% | N[C@@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C24H41NO2
